US07638521B2
0.4 g (12.5 mmol) of sodium hydride is added to 25 cm3 of dimethylformamide under an argon atmosphere at a temperature in the region of 20° C., and a solution of 1.8 g (11.7 mmol) of 4-chloropyrrolo[2,3-d]pyrimidine in 25 cm3 of dimethylformamide is then added dropwise over the course of 15 minutes. The reaction mixture is stirred at a temperature in the region of 20° C. for 1 hour, 1.12 cm3 (18 mmol) of methyl iodide are then added, and stirring is continued for 15 hours at a temperature in the region of 20° C. The reaction mixture is then poured into a mixture of 200 cm3 of ethyl acetate and 200 cm3 of water. The organic phase is separated out after the phases have settled, washed successively twice with 200 cm3 of water and 200 cm3 of saturated aqueous sodium chloride solution, dried over magnesium sulphate and then concentrated to dryness under reduced pressure (2.7 kPa), giving 1.35 g of 4-chloro-7-methyl-7H-pyrrolo[2,3-d]pyrimidine in the form of a brown powder. Mass spectrum (DCI): m/e 168 (MH+) (base peak).

reactant | sodium hydride | 12.5 mmol, 0.4 g | [H-].[Na+]
reactant | 4-chloropyrrolo[2,3-d]pyrimidine | 11.7 mmol, 1.8 g | ClC1=C2C(NC=N1)=NC=C2 | C6H4ClN3
reactant | methyl iodide | 18 mmol, 1.12 cm3 | CI | CH3I
reactant | ethyl acetate | 200 cm3 | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 25 cm3 | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 cm3 | CN(C=O)C | C3H7NO
solvent | water | 200 cm3 | O | H2O
product | 4-chloro-7-methyl-7H-pyrrolo[2,3-d]pyrimidine | 1.35 g | ClC=1C2=C(N=CN1)N(C=C2)C | C7H6ClN3
